US05830902
3-Hydroxy-3-[2-(10-methylphenothiazin-3-yl)ethyl]quinuclidine
In an atmosphere of argon, a hexane solution of n-butyl lithium (1.65M, 10.1 ml, 16.7 mmol) was added at -78° C. to a THF (25 ml) solution of 3-(2,2-dibromovinyl)-10-methylphenothiazine (3.13 g, 7.94 mmol), and the mixture was stirred for 1 hour and then at room temperature for 1 hour. The reaction mixture was again cooled at -78° C., and a THF (8 ml) solution of 3-quinuclidinone (1.09 g, 8.70 mmol) was added dropwise. The mixture was stirred at -78° C. for 1 hour and then with ice-cooling for 30 minutes. Water (5 ml) was added to the reaction mixture and the mixture was concentrated under a reduced pressure. A potassium carbonate aqueous solution was added and the reaction product was extracted with chloroform which was heated at about 50° C. The extract was dried over anhydrous magnesium sulfate and then concentrated under a reduced pressure. The resulting residue was recrystallized from ethanol-chloroform to give the title compound (1.75 g, 4.83 mmol, 61%) as yellow crystals.

reactant | hexane | CCCCCC | C6H14
reactant | n-butyl lithium | 16.7 mmol, 1.65M, 10.1 ml | C(CCC)[Li]
reactant | 3-(2,2-dibromovinyl)-10-methylphenothiazine | 7.94 mmol, 3.13 g | BrC(=CC=1C=CC=2N(C3=CC=CC=C3SC2C1)C)Br | C15H11Br2NS
reactant | 3-quinuclidinone | 8.70 mmol, 1.09 g | N12CC(C(CC1)CC2)=O | C7H11NO
solvent | Water | 5 ml | O | H2O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 3-Hydroxy-3-[2-(10-methylphenothiazin-3-yl)ethyl]quinuclidine | 4.83 mmol, 1.75 g, 61% | OC1(CN2CCC1CC2)CCC=2C=CC=1N(C3=CC=CC=C3SC1C2)C | C22H26N2OS
